US07271197B2
iv) 2-[4-(2-Bromoethyl)phenoxy]ethyl acetate
A mixture of 2-[4-(2-bromoethyl)phenoxy]ethanol (900 mg), acetic anhydride (0.5 mL), triethylamine (1.0 mL) and DMAP (13 mg) in DCM (5 mL) was stirred at room temperature for 0.5 h. The reaction was quenched by pouring into aq. NaHCO3 and the organic layer was washed with 2M HCl, dried (MgSO4) and concentrated in vacuo to give the title compound (1.03 g). LCMS RT=3.32 min.

reactant | 2-[4-(2-bromoethyl)phenoxy]ethanol | 900 mg | BrCCC1=CC=C(OCCO)C=C1 | C10H13BrO2
reactant | acetic anhydride | 0.5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 1.0 mL | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 13 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-(2-Bromoethyl)phenoxy]ethyl acetate | 1.03 g | C(C)(=O)OCCOC1=CC=C(C=C1)CCBr | C12H15BrO3
